US06166206
a) 6-(2,3-Dihydro-1H-inden-2-yl)-3-methyl-1-(1-methylethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione
3,6-Dimethyl-5-formyl-1-(1-methylethyl)pyrimidine-2,4-dione (J. Med. Chem., 1995, 38, 2557; 1.70 g) was dissolved in chloroform (25 ml) and the solution was heated to 50° C. A solution of bromine (0.413 ml) in chloroform (20 ml) was added dropwise to the aldehyde solution over 24 minutes. The reaction was maintained at 50° C. for a further 15 minutes, then allowed to cool to ambient temperature. The reaction mixture was diluted with dichloromethane and was washed successively with water, dilute sodium thiosulphate solution (twice) and brine. The resultant solution was dried, filtered and evaporated to a crude oil which was dissolved in ethanol (50 ml). Triethylamine (3.38 ml) was added to the solution followed by 2-aminoindane (1.49 g) and the mixture was stirred under nitrogen overnight. The reaction mixture was filtered, the white solid collected was washed with a little ethanol and the filtrate was evaporated to give a brown oil. Ethyl acetate was added to the oil and the resultant precipitate was collected by filtration and was washed with a little ethyl acetate. The filtrate was washed with hydrochloric acid (HCl) (2.5 M) and then brine. The resultant ethyl acetate phase was dried, filtered and evaporated to an oil. The oil was purified by chromatography, eluting with isohexane:acetone (4:1) to give a solid which was triturated with hot ethyl acetate:isohexane (3:1) to give the subtitle compound (0.50 g).

reactant | 3,6-Dimethyl-5-formyl-1-(1-methylethyl)pyrimidine-2,4-dione | 1.70 g | CN1C(N(C(=C(C1=O)C=O)C)C(C)C)=O | C10H14N2O3
reactant | bromine | 0.413 ml | BrBr | Br2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(2,3-Dihydro-1H-inden-2-yl)-3-methyl-1-(1-methylethyl)-1H-pyrrolo-[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.50 g | C1C(CC2=CC=CC=C12)N1C=C2N(C(N(C(C2=C1)=O)C)=O)C(C)C | C19H21N3O2
